US07842830B2
The Heck reaction between 3,6-dibromophenanthrenequinone (JYC-I-117-A) and styrene gave 3,6-distyrylphenanthrene-9,10-dione (JYC-I-139-A) as an orange solid in 62% yield. The scheme of the reaction is shown in FIG. 19.

reactant | 3,6-dibromophenanthrenequinone | BrC=1C(C(C=2C=CC3=CC=C(C=C3C2C1)Br)=O)=O | C14H6Br2O2
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
product | 3,6-distyrylphenanthrene-9,10-dione | 62% yield | C(=CC1=CC=CC=C1)C=1C=CC=2C(C(C3=CC=C(C=C3C2C1)C=CC1=CC=CC=C1)=O)=O | C30H20O2
